US07375236B2
1-(5-Bromo-3-tert-butyl-4-hydroxyphenyl)ethanone
1-(3-tert-Butyl-4-hydroxyphenyl)ethanone (690.9 g, 3.75 mol) was dissolved in acetonitrile (6.05 L), and a solution of N-bromosuccinimide (701.28 g, 3.94 mol) in acetonitrile (5 L) was added dropwise while stirring on ice. After heating to room temperature, the solvent was concentrated to approximately 3 L. For extraction, n-heptane (5 L) and water (5 L) were added, and the solution was separated. The aqueous layer was extracted further with n-heptane (2 L), and the solution was separated. The organic layers were combined, washed with 5% aqueous sodium thiosulfate (1 L) and water (2 L), and concentrated under reduced pressure (35° C.) to obtain 977.0 g of the subject compound as a brownish oily substance (yield: 99.1%, HPLC purity: 95.8%).

reactant | 1-(3-tert-Butyl-4-hydroxyphenyl)ethanone | 3.75 mol, 690.9 g | C(C)(C)(C)C=1C=C(C=CC1O)C(C)=O | C12H16O2
reactant | N-bromosuccinimide | 3.94 mol, 701.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 6.05 L | C(C)#N | C2H3N
solvent | acetonitrile | 5 L | C(C)#N | C2H3N
product | 1-(5-Bromo-3-tert-butyl-4-hydroxyphenyl)ethanone | 977.0 g, yield: 99.1% | BrC=1C(=C(C=C(C1)C(C)=O)C(C)(C)C)O | C12H15BrO2
